US05359098
2-Cyclobutyl-6-(6-piperidinylhexoxy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, cyclobutanecarbonyl chloride, 1-bromo-6-chlorohexane, and piperidine: mp 165°-166° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-Cyclobutyl-6-(6-piperidinylhexoxy)-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCC1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCCCC2 | InChI=1S/C24H33NO3.ClH/c26-22-18-24(19-9-8-10-19)28-23-12-11-20(17-21(22)23)27-16-7-2-1-4-13-25-14-5-3-6-15-25;/h11-12,17-19H,1-10,13-16H2;1H
